US07517878B2
Preparation of 3-{[1-(5-fluoro-2-methylphenyl)-3-methyl-4-phenyl-1H-pyrazol-5-yl]amino}isonicotinic acid
A mixture of 3-iodoisonicotinic acid (180 mg, 0.72 mmol), potassium carbonate (199 mg, 1.44 mmol), 1-(5-fluoro-2-methylphenyl)-3-methyl-4-phenyl-1H-pyrazol-5-amine (202 mg, 0.72 mmol, synthesized in the same manner as Intermediate F, using commercially available 2-phenylacetoacetonitrile as the nitrile source), and copper (II) acetate (6.5 mg, 0.04 mmol) in DMF (1 mL) was heated (150° C.) in a sealed tube for 16 h. The mixture was cooled to rt, filtered through a silica gel plug using ethyl acetate as eluent, concentrated to dryness, and subjected to HPLC purification using a gradient elution from 30% to 90% acetonitrile in water to afford 29.1 mg (10%) of the desired product. 1H NMR (300 MHz, CD3CN) δ 9.39 (br s, 1H), 7.93 (s, 1H), 7.86-7.90 (m, 2H), 7.05-7.45 (m, 8H), 2.38 (s, 3H), 2.15 (s, 3H); ES-MS m/z 403.1 (MH+), HPLC RT (min) 2.40.

reactant | 3-iodoisonicotinic acid | 0.72 mmol, 180 mg | IC1=C(C(=O)O)C=CN=C1 | C6H4INO2
reactant | potassium carbonate | 1.44 mmol, 199 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(5-fluoro-2-methylphenyl)-3-methyl-4-phenyl-1H-pyrazol-5-amine | FC=1C=CC(=C(C1)N1N=C(C(=C1N)C1=CC=CC=C1)C)C | C17H16FN3
reactant | 2-phenylacetoacetonitrile | C1(=CC=CC=C1)C(C#N)C(=O)C | C10H9NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | copper (II) acetate | 0.04 mmol, 6.5 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-{[1-(5-fluoro-2-methylphenyl)-3-methyl-4-phenyl-1H-pyrazol-5-yl]amino}isonicotinic acid | 29.1 mg, 10% | FC=1C=CC(=C(C1)N1N=C(C(=C1NC1=C(C(=O)O)C=CN=C1)C1=CC=CC=C1)C)C | C23H19FN4O2
